US08067445B2
Step 1: (2′-{[Ethyl-(3-phenyl-propionyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester and hydrocinnamoyl chloride.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | hydrocinnamoyl chloride | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
product | (2′-{[Ethyl-(3-phenyl-propionyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CCC1=CC=CC=C1)=O)CC)=O | C30H32F3NO4
